Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Comminuted anterior and posterior
frontal sinus fracture.

 
Major Surgical or Invasive Procedure:
PROCEDURES PERFORMED (___)
1. Cranialization of the frontal sinus.
2. Open reduction, internal fixation of anterior frontal
    sinus fracture.
3. Autologous fat grafting.
4. Pericranial flap.

 
History of Present Illness:
___ male with history of having sustained a frontal 
sinus injury
during a motor vehicle collision vesus a tree, and he presents 
with
frontal sinus fractures which are comminuted in posterior
table, as well as rhinorrhea. Unknown speed of vehicle at time 
of accident and the circumstances surrounding the accident are 
unclear. At the scene of the accident the patient was GCS 15 and 
self extracted. 
 
Past Medical History:
None 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Constitutional: Comfortable, No acute distress, A+O x 3
Head/Eyes: Well healing bitemporal incision without erythema, 
edema, or purulence 
Pupils equal, round, reactive to light
ENT/Neck: No midline tenderness
Chest/Resp: No chest wall tenderness or crepitus, bilateral
breath sounds present
Cardiovascular: Regular rate and rhythm
GI/Abdominal: Soft, nontender, nondistended
GU/Flank: No Costovertebral angle tenderness
Musculoskeletal: No deformity
Skin: No abrasions, lacerations, ecchymosis
Neuro: GCS 15, spontaneously moves all extremities to
command.
Psych: Normal mood, normal affect 

 
Pertinent Results:
IMAGING:

CT HEAD With and Without Contrast ___- 
IMPRESSION: 
1.  Early visualization of the right cavernous sinus suspicious 
for carotid 
cavernous fistula given the extensive skull base fractures.  
Cerebral 
angiography can confirm this finding if clinically indicated. 
2.  Patent anterior and posterior circulations.  No aneurysm 
greater than 2 mm 
in size. 
3.  Comminuted extensive skull base frontal bone fractures and 
small subdural 
hematoma and intraparenchymal hematoma and pneumocephalus as on 
the outside 
CT. 
4.  Bilateral maxillary and ethmoid fractures and sphenoid sinus 
fractures 
with blood and fluid within the sinuses. 

Cerebral Angiogram ___ -
IMPRESSION: ___ underwent diagnostic cerebral angiogram 
which 
demonstrates low flow right carotid cavernous fistula.  No 
aneurysm is 
visualized.  Drainage appears to be via the petrosal sinuses, 
without enlarged orbital vessels identified.  There is no supply 
via the external carotid 
artery. 

CT Head Without Contrast - ___
IMPRESSION:  Interval improved alignment of comminuted frontal 
fractures with 
decreased pneumocephalus, trace frontal subdural fluid, and 
overlying 
subgaleal air.  Frontal contusions, left greater than right, are 
again seen 
with increased adjacent edema. 

CT Head Without Contrast - ___
1.  Status post frontal bone fracture fixation with near 
resolution of 
pneumocephalus and stable small frontal subdural blood product 
and fluid.  No 
evidence for new mass effect or hydrocephalus.   
  
2.  Persistent bifrontal parenchymal contusions with adjacent 
edema. 

ADMIT LABS:

___ 01:50AM BLOOD Glucose-141* Lactate-2.6* Na-141 K-4.3 
Cl-105 calHCO3-22
___ 01:40AM BLOOD ASA-NEG Ethanol-31* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:35AM BLOOD Glucose-103* UreaN-8 Creat-0.9 Na-150* 
K-4.2 Cl-113* HCO3-28 AnGap-13
___ 01:40AM BLOOD Plt ___
___ 03:33AM BLOOD ___ PTT-24.2* ___
___ 01:40AM BLOOD WBC-14.3* RBC-5.04 Hgb-15.2 Hct-43.2 
MCV-86 MCH-30.2 MCHC-35.2* RDW-12.8 Plt ___

DISCHARGE LABS:

___ 04:50AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.1
___ 04:50AM BLOOD Glucose-99 UreaN-13 Creat-0.8 Na-139 
K-3.6 Cl-102 HCO3-26 AnGap-15
___ 06:17AM BLOOD Plt ___
___ 06:17AM BLOOD WBC-8.0 RBC-3.96* Hgb-11.8* Hct-33.9* 
MCV-86 MCH-29.7 MCHC-34.7 RDW-12.5 Plt ___ restrained passenger in single vehicle crash vs. tree. + 
airbag deployment, self extricated. No LOC. Brought to outside 
hospital and found to have bifrontal contusions, frontal SDH, 
facial fractures, depressed skull fracture. CTA showed right 
carotid/cavernous sinus fistula but no dissection. Neurosurgery 
and ophtho evaluated the patient and it was decided that no 
intervention was necessary. Pt was also seen by plastics surgery 
and he is scheduled to have surgery on ___ for his facial 
fracture and malocclusion. On ___, pt pain was well 
controlled, his vital signs were stable, he was tolerating clear 
diet. pt was stable for transfer to floor. The rest of his 
hospital course by systems are detailed below 
  
Neurologic:  
- presently AAO x 3  
- HOB elevated  
- pain control with dilaudid pca, tylenol prn  
- q4 neuro checks  
- keppra bid  
- Hypernatremia with increased dilute urine output c/w DI, 
resolving with free water, D5W at 100cc/hr. Continue to monitor 
sodium level.  

ENT/Facial/Ophtho  
- ophtho c/s: intraoccular pressures wnl, out pt f/u in 2weeks  
- dc'd augmentin started for facial fractures by plastics  
- q4 vision checks  
- observe for proptosis/eye pain in R w/ known carotid/cavernous 
fistula. He is set up for an MRI in 1 month. 

Cardiovascular:  
- stable

Pulmonary:  
- no issues 
 
Gastrointestinal / Abdomen:  
- clear diet->ADAT, NPO at midnight for OR tomorrow  
- zofran prn  
- famotidine  

Renal:  
- no Foley needed, good UOP
  
Hematology:  
- no issues  

Endocrine:  
- no issues  

Infectious Disease:  
-d/c augmentin for facial fractures, plastics team notified  
-Monitor for signs of infection  
 
Prophylaxis:  
- DVT: Boots  
- Stress ulcer: famotidine  
  

 
Medications on Admission:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) anterior/posterior table comminuted fracture of frontal bone
2) bilateral small frontal contusions, and associated SDH
3) carotid cavernous fistula 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for observation after a motor 
vehicle accident and treatment of your injuries. Please follow 
these discharge instructions:
-You may shower from the neck down.  You should keep your scalp 
sutures/incision dry and clean until you follow up with Dr. ___.
.
Medications:  
* You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol. 
* Take prescription pain medications for pain not relieved by 
tylenol. 
* Take your antibiotic as prescribed. 
* Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
. 
Call the office IMMEDIATELY if you have any of the following: 
* Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s) and/or your nose. 
* A large amount of bleeding from the incision(s). 
* Fever greater than 101.5 oF 
* Severe pain NOT relieved by your medication. 
. 
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
.
Activities:
* No strenuous activity 
* Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
* Unless directed by your physician, do not take any medicines 
such as Motrin, Aspirin, Advil or Ibuprofen etc
.
Comments:
* Please sleep on several pillows and try to keep your head 
elevated to help with drainage.  
* Please continue your oral antibiotics until finished. 
* Please avoid blowing your nose. 
* Sneeze with your mouth open 
* Try to avoid sipping liquids through a straw 

 
Followup Instructions:
___